US05001125
A mixture of 4 parts of 1-(6-chloro-3-pyridazinyl)-4-(3-methoxyphenyl)-4-piperidinol, 80 parts of ethanol and 50 parts of a hydrochloric acid solution 6 N was stirred for 6 hours at reflux temperature. The reaction mixture was evaporated. Water was added and the whole was treated with concentrate ammonium hydroxide. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 2.5 parts (64%) of 3-chloro-6-[3,6-dihydro-4-(3-methoxyphenyl)-1(2H)-pyridinyl]pyridazine; mp. 126.4° C. (compound 235).

reactant | 1-(6-chloro-3-pyridazinyl)-4-(3-methoxyphenyl)-4-piperidinol | ClC1=CC=C(N=N1)N1CCC(CC1)(O)C1=CC(=CC=C1)OC | C16H18ClN3O2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-chloro-6-[3,6-dihydro-4-(3-methoxyphenyl)-1(2H)-pyridinyl]pyridazine | 64% | ClC=1N=NC(=CC1)N1CCC(=CC1)C1=CC(=CC=C1)OC | C16H16ClN3O
